data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4161,4764,[CH3:10][O:11][C:12](=[O:13])[C-:14]([N+:15]#[C:16][C:17]#[N:18])[C:19](=[O:20])[O:21][CH3:22].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([O:11][CH3:10])=[O:13])([C:19](=[O:20])[O:21][CH3:22])[N:15]=[C:16]1[C:17]#[N:18],water,298.15,12.975269582282516,-37.38518273958291
2057,2284,[CH3:11][NH:12][C:13](=[O:14])[C:15](=[O+:16][C-:17]([C:18](=[O:19])[NH:20][CH3:21])[C:22](=[O:23])[O:24][CH3:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1.[N:1]#[C:2][C:3]1=[C:4]([F:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[N:1]#[C:2][C:3]12[C:4]([F:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[C:15]([C:13]([NH:12][CH3:11])=[O:14])([c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)[O:16][C:17]2([C:18](=[O:19])[NH:20][CH3:21])[C:22](=[O:23])[O:24][CH3:25],water,298.15,14.326433110953872,-51.096845911851815
2119,2352,[CH3:15][NH:16][C:17](=[O:18])[C-:19]([C:20](=[O:21])[O:22][CH3:23])[N+:24]([CH3:25])=[C:26]([CH3:27])[C:28](=[O:29])[O:30][CH3:31].[CH3:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]3[CH:12]([CH:13]1[O:14]2)[C:19]([C:17]([NH:16][CH3:15])=[O:18])([C:20](=[O:21])[O:22][CH3:23])[N:24]([CH3:25])[C:26]3([CH3:27])[C:28](=[O:29])[O:30][CH3:31],water,298.15,23.72250973131368,-41.311626520541104
2483,2758,[CH3:16][NH:17][C:18](=[O:19])[C-:20]([C:21](=[O:22])[O:23][CH3:24])[N+:25]([CH3:26])=[C:27]([CH3:28])[C:29]#[N:30].[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Br:6])[C:7]#[C:8][C:9]([CH3:10])([CH3:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Br:6])[C:7]2=[C:8]([C:9]([CH3:10])([CH3:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[C:20]([C:18]([NH:17][CH3:16])=[O:19])([C:21](=[O:22])[O:23][CH3:24])[N:25]([CH3:26])[C:27]2([CH3:28])[C:29]#[N:30],water,298.15,28.57522853230801,-29.542154012152768
1281,1402,[CH3:12][C:13](=[O:14])[c-:15]1[o+:16][c:17]([C:18]#[N:19])[o:20][c:21]1=[O:22].[F:1][C:2]1([F:3])[C:4]#[C:5][CH:6]([Br:7])[CH2:8][CH2:9][CH2:10][CH2:11]1>>[F:1][C:2]1([F:3])[C:4]2=[C:5]([CH:6]([Br:7])[CH2:8][CH2:9][CH2:10][CH2:11]1)[C:15]1([C:13]([CH3:12])=[O:14])[O:16][C:17]2([C:18]#[N:19])[O:20][C:21]1=[O:22],water,298.15,13.48597030621481,-36.35615543621097
3894,4454,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[C:9]([CH3:10])=[N+:11]([CH3:12])[C-:13]([CH3:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:13]([CH3:14])([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[N:11]([CH3:12])[C:9]1([C:7]([NH:6][CH3:5])=[O:8])[CH3:10],water,298.15,31.57907953595575,-35.62219125720511
4027,4612,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][C:8](=[O:9])[C-:10]([c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1)[N+:17]([CH3:18])=[C:19]([CH3:20])[CH3:21]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:10]([C:8]([CH3:7])=[O:9])([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)[N:17]([CH3:18])[C:19]1([CH3:20])[CH3:21],water,298.15,37.05389562734327,1.4711898323335126
3525,4023,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][C:8](=[O:9])[C-:10]([CH3:11])[N+:12]#[C:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:13]([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)=[N:12][C:10]1([C:8]([CH3:7])=[O:9])[CH3:11],water,298.15,15.650557772481609,-29.52447345416813
4293,4912,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C-:15]([CH3:16])[N+:17]([CH3:18])=[C:19]([C:20]#[N:21])[C:22]#[N:23]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:19]([C:20]#[N:21])([C:22]#[N:23])[N:17]([CH3:18])[C:15]2([C:13]([NH:12][CH3:11])=[O:14])[CH3:16],water,298.15,42.76995410196911,-3.2513339698108217
350,380,[CH3:1][C:2](=[O:3])[C:4]([F:5])=[C:6]([F:7])[F:8].[CH3:9][NH:10][C:11](=[O:12])[C:13]([CH3:14])=[O+:15][CH-:16][C:17]([CH3:18])=[O:19]>>[CH3:1][C:2](=[O:3])[C:4]1([F:5])[C:6]([F:7])([F:8])[C:13]([C:11]([NH:10][CH3:9])=[O:12])([CH3:14])[O:15][CH:16]1[C:17]([CH3:18])=[O:19],water,298.15,18.84350474184349,-53.3433121256913
4346,4967,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C-:15]([N+:16]#[C:17][C:18]#[N:19])[C:20](=[O:21])[O:22][CH3:23]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:17]([C:18]#[N:19])=[N:16][C:15]2([C:13]([NH:12][CH3:11])=[O:14])[C:20](=[O:21])[O:22][CH3:23],water,298.15,14.85574231283502,-37.08252029096607
1325,1454,[CH3:10][NH:11][C:12](=[O:13])[c:14]1[o:15][c:16](=[O:17])[c-:18](-[c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[n+:25]1[CH3:26].[CH3:1][O:2][C:3]1=[CH:4][CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2>>[CH3:1][O:2][C:3]12[CH:4]([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[C:18]1([c:19]3[cH:20][cH:21][cH:22][cH:23][cH:24]3)[C:16](=[O:17])[O:15][C:14]2([C:12]([NH:11][CH3:10])=[O:13])[N:25]1[CH3:26],water,298.15,31.409080411048823,-5.435265360336291
